US07943609B2
[(11S)-6-Amino-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]methanol
(11S)-11-[(Benzyloxy)methyl]-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine (297 mg, 0.825 mmol) was dissolved in 20 mL of methanol and the solution was placed in a pressure bottle. Palladium on carbon (10%, 230 mg) and 0.5 mL of 3 M HCl in ethanol were then added and the reaction mixture was shaken under H2 at 50 PSI (3.4×105 Pa). After 18 hours, the reaction mixture was filtered through a pad of CELITE filter agent. The pad was rinsed with methanol and the combined filtrates were concentrated under reduced pressure. The residue was dissolved in H2O and the solution was made basic by the addition of concentrated aqueous NH4OH solution. The aqueous solution was extracted with 10% MeOH/CH2Cl2 several times and the combined organic layers were concentrated under reduced pressure. Chromatography (SiO2, 25-75% CMA/CHCl3) gave a white powder. Crystallization from ethyl acetate gave 85 mg of the title compound as white, fluffy crystals, mp 238.6-239.8° C.

reactant | (11S)-11-[(Benzyloxy)methyl]-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine | 0.825 mmol, 297 mg | C(C1=CC=CC=C1)OC[C@H]1COCC=2N1C1=C(C(=NC3=CC=CC=C13)N)N2 | C21H20N4O2
reactant | HCl | 3 M, 0.5 mL | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
catalyst | Palladium on carbon | 230 mg | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | [(11S)-6-Amino-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]methanol | 85 mg | NC1=NC2=CC=CC=C2C2=C1N=C1N2[C@H](COC1)CO | C14H14N4O2
